US04851153
A reaction was carried out in the same manner as illustrated in Example 10 except that 100 g of isophthalic acid was used in place of the phthalic acid used in Example 10, whereby an aqueous solution of potassium isophthalate having a pH value of 10.2 and containing 10.0% by weight of a solid matter was obtained, which was then subjected to a double decomposition reaction conducted in the same manner as illustrated in Example 10 to obtain 230 g of silver isophthalate having a silver content of 51.5% by weight.

reactant | isophthalic acid | 100 g | C(C1=CC(C(=O)O)=CC=C1)(=O)O | C8H6O4
reactant | potassium isophthalate | C(C1=CC(C(=O)[O-])=CC=C1)(=O)[O-].[K+].[K+]
reactant | silver | [Ag] | Ag
product | silver isophthalate | 230 g | C(C1=CC(C(=O)[O-])=CC=C1)(=O)[O-].[Ag+2] | InChI=1S/C8H6O4.Ag/c9-7(10)5-2-1-3-6(4-5)8(11)12;/h1-4H,(H,9,10)(H,11,12);/q;+2/p-2
